US04741843
Preparation of Terpolymer of AMD, AMPS and DMAD Having a Weight Ratio of 15:70:15
For comparison purposes, a terpolymer outside the scope of applicants' invention was prepared and tested. Into a 1 liter resin reaction flask fitted with a stirrer, thermometer, condenser, nitrogen inlet and a port for adding liquid, is placed 470.1 g of deionized water, 75.2 g of a 50% solution of acrylamide, 350 g of a 50% solution of AMPS, 37.6 g of N, N-dimethylacrylamide and 0.1 g of Versene 100. The solution is stirred and to it added a solution of 0.5 g of sodium hypophosphite dissolved in 16 g of deionized water. The solution is sparged sub-surface with nitrogen and then heated to 72° C. with an external heating jacket. A solution of 0.4 g of ammonium persulfate dissolved in 50 g of deionized water is prepared and placed in a metering pump connected to the flask at the inlet part with a fine bore tygon tubing. The persulfate solution is added uniformly to the flask over a period of three hours, maintaining a temperature of 72 ° C.±2° C. in the reactor by initially cooling and then warming. After the persulfate solution is added, the 72° C. temperature is maintained for an additional hour, then the solution is cooled to about 40 C and discharged. The resulting product was a clear, very pale yellow, viscous liquid with a solids content of 25%. The viscosity, as measured on a Brookfield viscometer, was 21,300 cps, spindle 4, speed 12. The pH of the solution was 3.0.

reactant | acrylamide | C(C=C)(=O)N | C3H5NO
reactant | N, N-dimethylacrylamide | 37.6 g | CN(C(C=C)=O)C | C5H9NO
reactant | Versene 100 | 0.1 g | C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)[O-])CC(=O)[O-].[Na+].[Na+].[Na+].[Na+]
reactant | sodium hypophosphite | 0.5 g | [PH2](=O)[O-].[Na+]
reactant | tygon | CC(=O)OC=C.C=CCl
reactant | persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-]
solvent | water | 16 g | O | H2O
solvent | water | 470.1 g | O | H2O
product | DMAD | COC(=O)C#CC(=O)OC | C6H6O4
